US04732970
N,N'-[(9,10-Dihydro-5,8-dihydroxy-9,10-dioxo-1,4-anthracenediyl)bis(imino-2,1-ethanediyl)]-bis[L-phenylalanyl-L-leucinamide], dihydrobromide
A 2.75 g portion of N,N'-[(9,10-dihydro-5,8-dihydroxy-9,10-dioxo-1,4-anthracenediyl)bis(imino-2,1-ethanediyl)]bis[N-[(phenylmethoxy)carbonyl]-L-phenylalanyl-L-leucinamide] was reacted by a modification of the procedure of Example 31, by being dissolved in 75 ml of glacial acetic acid previously saturated for 5 minutes with anhydrous hydrogen bromide. The mixture was reacted for 2.5 hours, then more hydrogen bromide was bubbled into the solution for 15 minutes and after another 2 hours the solid was collected, giving 2.7 g of the desired product, mp 180° C. (dec.).

reactant | N,N'-[(9,10-dihydro-5,8-dihydroxy-9,10-dioxo-1,4-anthracenediyl)bis(imino-2,1-ethanediyl)]bis[N-[(phenylmethoxy)carbonyl]-L-phenylalanyl-L-leucinamide] | OC1=C2C(C=3C(=CC=C(C3C(C2=C(C=C1)O)=O)NCCNC([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O)CC(C)C)=O)NCCNC([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O)CC(C)C)=O)=O | C64H72N8O12
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | N,N'-[(9,10-Dihydro-5,8-dihydroxy-9,10-dioxo-1,4-anthracenediyl)bis(imino-2,1-ethanediyl)]-bis[L-phenylalanyl-L-leucinamide], dihydrobromide | 2.7 g | Br.Br.OC1=C2C(C=3C(=CC=C(C3C(C2=C(C=C1)O)=O)NCCNC([C@@H](NC([C@@H](N)CC1=CC=CC=C1)=O)CC(C)C)=O)NCCNC([C@@H](NC([C@@H](N)CC1=CC=CC=C1)=O)CC(C)C)=O)=O | InChI=1S/C48H60N8O8.2BrH/c1-27(2)23-35(55-45(61)31(49)25-29-11-7-5-8-12-29)47(63)53-21-19-51-33-15-16-34(40-39(33)43(59)41-37(57)17-18-38(58)42(41)44(40)60)52-20-22-54-48(64)36(24-28(3)4)56-46(62)32(50)26-30-13-9-6-10-14-30;;/h5-18,27-28,31-32,35-36,51-52,57-58H,19-26,49-50H2,1-4H3,(H,53,63)(H,54,64)(H,55,61)(H,56,62);2*1H/t31-,32-,35-,36-;;/m0../s1
